US08039469B2
Preparation of 2-(1-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperidin-4-ylamino)acetamide
Starting from 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea.TFA (50 mg) and glycinamide hydrochloride (18 mg) and triethylamine (10 drops) and following the procedure as outlined in example 118 the title compound was isolated as its di-TFA salt after HPLC purification; MS (ES+) 559.8 (M+H)+

reactant | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCC(CC2)=O)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C26H28N8O3
reactant | TFA | 50 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | glycinamide hydrochloride | 18 mg | Cl.NCC(=O)N
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
product | 2-(1-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperidin-4-ylamino)acetamide | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)N2CCC(CC2)NCC(=O)N | C28H34N10O3
